US04563466
1-[1-(Naphth-2-ylmethyl)piperid-4-yl]-3-(then-2-oyl)urea
4-Amino-1-(naphth-2-ylmethyl)piperidine (1.0 g, 0.0047 m) and 1-(then-2-oyl)urea (0.65 g, 0.0042 m) in pyridine (5 cm3) was refluxed for 9.5 hours. The solvent was evaporated, water added, and the precipitated title compound filtered and washed well with water. This was recrystallised from ethanol, converted to the hydrochloride salt in ethanol with ethanolic HCl, and recrystallised from ethanol, 0.5 g, at the hydrochloride, m.p. 217°-219° C.

reactant | 4-Amino-1-(naphth-2-ylmethyl)piperidine | 1.0 g | NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C16H20N2
reactant | 1-(then-2-oyl)urea | 0.65 g | C(=O)(C1=CC=CS1)NC(=O)N | C6H6N2O2S
solvent | pyridine | 5 cm3 | N1=CC=CC=C1 | C5H5N
product | 1-[1-(Naphth-2-ylmethyl)piperid-4-yl]-3-(then-2-oyl)urea | C1=C(C=CC2=CC=CC=C12)CN1CCC(CC1)NC(=O)NC(=O)C1=CC=CS1 | C22H23N3O2S
